US09062044B2
Intermediate 24: (1S,6R)-tert-Butyl 3,8-diazabicyclo[4.2.0]octane-3-carboxylate
To a solution of (1R,6S)-tert-butyl 8-((S)-1-phenylethyl)-3,8-diazabicyclo[4.2.0]octane-3-carboxylate (1.5 g, 75%) in EtOH (50 mL) was added AcOH (1.5 mL). The resulting mixture was cycled through an ThalesNano H-Cube containing a 20% Pd(OH)2/C catalyst cartridge at 50° C. and 100 bar of hydrogen pressure. After 16 hours the resulting mixture was removed from the ThalesNano H-Cube and poured over a saturated sodium carbonate solution (100 mL). The aqueous layer was extracted with DCM (50 mL) four times. The organic layers were combined, dried over Na2SO4, filtered and concentrated under reduced pressure to yield the title compound (755 mg, 75%) which was used in the next step without purification. MS (ESI) mass calcd. for C11H20N2O2, 212.2; m/z found, 213.1 [M+H]+. 1H NMR (500 MHz, CDCl3): 4.18-4.00 (m, 1H), 3.85-3.57 (m, 3H), 3.44-3.34 (m, 1H), 3.28 (dt, J=13.1, 6.5 Hz, 1H), 3.24-3.13 (m, 1H), 2.82-2.72 (m, 1H), 1.93-1.83 (m, 1H), 1.82-1.70 (m, 1H), 1.48 (s, 9H).

reactant | (1R,6S)-tert-butyl 8-((S)-1-phenylethyl)-3,8-diazabicyclo[4.2.0]octane-3-carboxylate | 1.5 g | C1(=CC=CC=C1)[C@H](C)N1C[C@@H]2CCN(C[C@H]12)C(=O)OC(C)(C)C | C19H28N2O2
reactant | AcOH | 1.5 mL | CC(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | (1S,6R)-tert-Butyl 3,8-diazabicyclo[4.2.0]octane-3-carboxylate | 755 mg, 75% | [C@H]12CN(CC[C@@H]2CN1)C(=O)OC(C)(C)C | C11H20N2O2
